US05852017
d) Ethyl N-(1-cyclohexyl-7-nitro-2,3(1H,4H)-quinoxalinedion-6-yl)oxamate
48 g (0.133 mol) of ethyl N-(1-cyclohexyl-2,3(1H,4H)-quinoxalinedion-6-yl)oxamate were dissolved in 1 l of concentrated sulfuric acid and, at 0° C., 11.35 g (0.133 mol) of sodium nitrate were added a little at a time. The mixture was stirred at 0° C. for a further 2 h and poured into a large quantity of ice. The precipitate was filtered off with suction to yield 50.1 g (93%) of the product.

reactant | ethyl N-(1-cyclohexyl-2,3(1H,4H)-quinoxalinedion-6-yl)oxamate | 0.133 mol, 48 g | C1(CCCCC1)N1C(C(NC2=CC(=CC=C12)NC(C(=O)OCC)=O)=O)=O | C18H21N3O5
reactant | sodium nitrate | 0.133 mol, 11.35 g | [N+](=O)([O-])[O-].[Na+]
solvent | sulfuric acid | 1 l | S(O)(O)(=O)=O | H2O4S
product | Ethyl N-(1-cyclohexyl-7-nitro-2,3(1H,4H)-quinoxalinedion-6-yl)oxamate | 50.1 g, 93% | C1(CCCCC1)N1C(C(NC2=CC(=C(C=C12)[N+](=O)[O-])NC(C(=O)OCC)=O)=O)=O | C18H20N4O7
